US07462600B2
Preparation 13: pyrrolo[1,2-a]-pyrazine-6-carbaldehyde
Pyrrolo[1,2-a]pyrazine (1.92 g, 16.3 mmol) was dissolved in water (16 mL) and treated with conc. aq. HCl (4 mL, 46.4 mmol) and 37% wt aqueous formaldehyde (5.6 mL, 67 mmol). The solution was heated to 60° C. for 4 h, allowed to cool to RT and the pH adjusted to 10. The solution was extracted with EtOAc (3×50 mL) and the combined fractions dried over Na2SO4 and concentrated to dryness under vacuum. The organic residue was purified (SGC using DCM:MeOH:NH4OH eluant in 96:3:1 ratio). Recovered starting material was dissolved in water (20 mL) and conc. HCl (5 mL, 0.6 mol) and formaldehyde (7 mL, 0.9 mol). The solution was heated to 60° C. for 120 h, and then allowed to stir at RT for 240 h. The solution pH was then brought to 12 with sodium hydroxide solution (30% w/v aq) and extracted with EtOAc (4×30 mL). The organic fractions were combined, dried over Na2SO4, and concentrated to dryness under vacuum. The product was purified (SGC using DCM:MeOH:NH4OH eluant in 95:4:1 ratio) yielding the title compound (0.46 g). MS (ESI+) for m/z 149 (M+H)+. 1H NMR (CDCl3) δ 8.46 (s, 1H), 7.85 (dd,1H), 7.19 (d, 1H), 6.72 (d, 1H), 6.63 (d, 1H), 4.83 (s, 1H), 4.78 (bs,1H).

reactant | Pyrrolo[1,2-a]pyrazine | 16.3 mmol, 1.92 g | C=1C=2N(C=CN1)C=CC2 | C7H6N2
reactant | HCl | 46.4 mmol, 4 mL | Cl | ClH
reactant | formaldehyde | 67 mmol, 5.6 mL | C=O | CH2O
reactant | HCl | 0.6 mol, 5 mL | Cl | ClH
reactant | formaldehyde | 0.9 mol, 7 mL | C=O | CH2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 16 mL | O | H2O
product | pyrrolo[1,2-a]-pyrazine-6-carbaldehyde | 0.46 g | C=1C=2N(C=CN1)C(=CC2)C=O | C8H6N2O
